US04609650
16β-Ethyl-17β-(2-methylbutyryl)oxyacetoxy-4-estren-3-one
In 30 ml of acetone is dissolved 0.4 ml of 2-methylbutyric acid, and 2.0 ml of 2N-NaOH and 3 ml of water is added, followed by addition of 0.88 g of 16β-ethyl-17β-bromoacetoxy-4-estren-3-one. The mixture is refluxed for 6 hours and allowed to stand at room temperature (15°-25° C.) for 2 days, followed by addition of 150 ml of ethyl acetate. The organic layer is separated, washed with water and saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent is then distilled off under reduced pressure and the residue is subjected to column chromatography. Following passage of 100 ml of diisopropyl ether-n-hexane (2:8), elution is carried out with 400 ml of a 1:1 mixture of the same solvents. The eluate is evaporated under reduced pressure to remove the solvent, giving 0.8 g of the above-identified compound as a light-yellow viscous oil.

reactant | 16β-ethyl-17β-bromoacetoxy-4-estren-3-one | 0.88 g | C(C)[C@@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)OC(CBr)=O | C22H31BrO3
reactant | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
reactant | 2-methylbutyric acid | 0.4 ml | CC(C(=O)O)CC | C5H10O2
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | NaOH | [OH-].[Na+]
solvent | water | 3 ml | O | H2O
product | 16β-Ethyl-17β-(2-methylbutyryl)oxyacetoxy-4-estren-3-one | 0.8 g | C(C)[C@@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)OC(COC(C(CC)C)=O)=O | C27H40O5
